US04771046
5.29 ml of chloroacetonitrile were added to a solution of 192 mg of metallic sodium in 80 ml of anhydrous methanol, and the mixture was stirred at room temperature for one hour. 15.10 g of 4-carbamoyloxypiperidine hydrochloride were than added, and the mixture was stirred for a further 2 hours. The reaction mixture was worked up in the same manner as in Example 1(1), giving 21.00 g of 2-(4-carbamoyloxypiperidin-1-yl)-2-iminoethylchloride hydrochloride.

reactant | chloroacetonitrile | 5.29 ml | ClCC#N | C2H2ClN
reactant | sodium | 192 mg | [Na] | Na
reactant | 4-carbamoyloxypiperidine hydrochloride | 15.10 g | Cl.C(N)(=O)OC1CCNCC1
solvent | methanol | 80 ml | CO | CH4O
product | 2-(4-carbamoyloxypiperidin-1-yl)-2-iminoethylchloride hydrochloride | 21.00 g | Cl.C(N)(=O)OC1CCN(CC1)C(CCl)=N | InChI=1S/C8H14ClN3O2.ClH/c9-5-7(10)12-3-1-6(2-4-12)14-8(11)13;/h6,10H,1-5H2,(H2,11,13);1H
